US07560558B2
(4,5-Dimethylfuran-2-yl)-(3-methylpyridin-2-yl)-methanone (930 mg), methanol (7.5 ml), and a 28% aqueous ammonia solution (9 ml) were placed in a sealed tube and was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give 5,6,3′-trimethyl-[2,2′]bipyridin-3-ol (109 mg, yield 86%).

reactant | (4,5-Dimethylfuran-2-yl)-(3-methylpyridin-2-yl)-methanone | 930 mg | CC=1C=C(OC1C)C(=O)C1=NC=CC=C1C | C13H13NO2
reactant | ammonia | 9 ml | N | H3N
solvent | methanol | 7.5 ml | CO | CH4O
product | 5,6,3′-trimethyl-[2,2′]bipyridin-3-ol | 109 mg, yield 86% | CC=1C=C(C(=NC1C)C1=NC=CC=C1C)O | C13H14N2O
